US07192970B2
Preparation of dimethyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzylidenemalonate
To a solution of 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzaldehyde (1.50 g, 4.26 mmol) and dimethyl malonate (1.69 g, 12.78 mmol) in toluene (30 ml) is added a catalytic quantity of piperidinium acetate. Then the mixture is refluxed in a Dean-Stark trap for 8 hours. After cooled to room temperature, the solution is concentrated under a vacuum to give title compound (1.95 g, 98%).

reactant | 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzaldehyde | 4.26 mmol, 1.50 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCCOC1=CC=C(C=O)C=C1)C | C23H28O3
reactant | dimethyl malonate | 12.78 mmol, 1.69 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | piperidinium acetate | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoxy)ethoxy]benzylidenemalonate | 1.95 g, 98% | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCCOC1=CC=C(C=C(C(=O)OC)C(=O)OC)C=C1)C | C28H34O6
